US08466186B2
(c) (S)—N-(3-(3-(2-Amino-4-chloro-5-(2-(methoxymethyl)pyrrolidin-1-yl)phenyl)thioureido)-4-chlorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide
A mixture of (S)—N-(4-chloro-3-(3-(4-chloro-5-(2-(methoxymethyl)pyrrolidin-1-yl)-2-nitrophenyl)thioureido)benzyl)-1-(trifluoromethyl)cyclopropanecarboxamide (145 mg; 0.23 mmol), Fe (65 mg; 1.2 mmol), saturated aqueous NH4Cl-solution (3 mL) and EtOH (3 mL) was stirred at 90° C. for 2 h. The mixture was basicified to pH-9-10 and filtered through celite. The celite pad was washed with EtOH and EtOAc. The mixture was concentrated and the residue was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was washed with Et2O to give the sub-title compound.

reactant | (S)—N-(4-chloro-3-(3-(4-chloro-5-(2-(methoxymethyl)pyrrolidin-1-yl)-2-nitrophenyl)thioureido)benzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | 0.23 mmol, 145 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC(=S)NC1=C(C=C(C(=C1)N1[C@@H](CCC1)COC)Cl)[N+](=O)[O-] | C25H26Cl2F3N5O4S
reactant | NH4Cl | 3 mL | [NH4+].[Cl-]
catalyst | Fe | 1.2 mmol, 65 mg | [Fe] | Fe
solvent | EtOH | 3 mL | CCO | C2H6O
product | (S)—N-(3-(3-(2-Amino-4-chloro-5-(2-(methoxymethyl)pyrrolidin-1-yl)phenyl)thioureido)-4-chlorobenzyl)-1-(trifluoromethyl)cyclopropanecarboxamide | NC1=C(C=C(C(=C1)Cl)N1[C@@H](CCC1)COC)NC(NC=1C=C(CNC(=O)C2(CC2)C(F)(F)F)C=CC1Cl)=S | C25H28Cl2F3N5O2S
